US09056874B2
a) (±)-2-(1-(5-Ethyl-7-methyl-1H-indol-4-yl)-2,2,2-trifluoro-1-hydroxyethyl)-1H-benzo[d]imidazole-5-carbonitrile
To a solution of a mixture of 2-(5-ethyl-7-methyl-1-tosyl-1H-indole-4-carbonyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile and 2-(5-ethyl-7-methyl-1-tosyl-1H-indole-4-carbonyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile (400 mg, 0.653 mmol) and trimethyl(trifluoromethyl)silane (0.204 mL, 1.30 mmol) in THF (1 mL) was added dropwise TBAF in THF (1M, 1.95 mL, 1.95 mmol) at 0° C., and then the mixture was stirred at room temperature for 0.5 hr. To the mixture were added ethylenediamine (0.441 mL, 6.53 mmol) and TBAF in THF (1M, 6.53 mL, 6.53 mmol), and then the mixture was stirred at 60° C. for 77 h. The reaction mixture was cooled to room temperature. The reaction mixture was diluted with EtOAc and successively washed by 5% aq. NaHCO3, H2O and brine, dried over Na2SO4, and filtered. After concentration the residue was purified by silica gel flash chromatography [heptanes/(30% EtOAc in CH2Cl2)=44/55] to give the title compound. 1H NMR (400 MHz, ACETONITRILE-d3 with about 5 μL TFA) δ ppm 9.25 (br. s., 1H), 8.10 (s, 1H), 7.67 (d, J=8.30 Hz, 1H), 7.61 (dd, J=1.30, 8.30 Hz, 1H), 7.04 (t, J=3.00 Hz, 1H), 6.97 (s, 1H), 6.02 (br. s., 1H), 5.32 (br. s., 1H), 2.92-3.04 (m, 1H), 2.51-2.59 (m, 1H), 2.50 (d, J=0.76 Hz, 3H), 1.12 (t, J=7.33 Hz, 3H). HRMS calcd. for C21H17F3N4O (M+H)+ 399.1427. found 399.1420.

reactant | 2-(5-ethyl-7-methyl-1-tosyl-1H-indole-4-carbonyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile | C(C)C1=C(C=2C=CN(C2C(=C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(=O)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)C#N | C33H36N4O4SSi
reactant | 2-(5-ethyl-7-methyl-1-tosyl-1H-indole-4-carbonyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile | 0.653 mmol, 400 mg | C(C)C1=C(C=2C=CN(C2C(=C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(=O)C1=NC2=C(N1COCC[Si](C)(C)C)C=C(C=C2)C#N | C33H36N4O4SSi
reactant | trimethyl(trifluoromethyl)silane | 1.30 mmol, 0.204 mL | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | ethylenediamine | 6.53 mmol, 0.441 mL | C(CN)N | C2H8N2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 6.53 mmol, 1M, 6.53 mL | C1CCOC1 | C4H8O
solvent | THF | 1.95 mmol, 1M, 1.95 mL | C1CCOC1 | C4H8O
product | (±)-2-(1-(5-Ethyl-7-methyl-1H-indol-4-yl)-2,2,2-trifluoro-1-hydroxyethyl)-1H-benzo[d]imidazole-5-carbonitrile | C(C)C=1C(=C2C=CNC2=C(C1)C)C(C(F)(F)F)(O)C1=NC2=C(N1)C=CC(=C2)C#N | C21H17F3N4O
